US04508649
4(R)-acetoxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-[1-p-nitrobenzyloxycarbonyl-1-triphenylphosphoranylidenemethyl]-azetidin-2-one
A stirred solution of 4(R)-hydroxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)-azetidin-2-one (418 mg, 0.5 mmole) in CH2Cl2 (5 ml) was sequentially treated with pyridine (162 mg) and acetic anhydride (90 mg) and then stirred at room temperature for six hours.

reactant | 4(R)-hydroxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)-azetidin-2-one | 0.5 mmole, 418 mg | OCC(=O)S[C@@H]1[C@H](C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C42H36N3O12PS
reactant | pyridine | 162 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 90 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4(R)-acetoxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-[1-p-nitrobenzyloxycarbonyl-1-triphenylphosphoranylidenemethyl]-azetidin-2-one | C(C)(=O)OCC(=O)S[C@@H]1[C@H](C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C44H38N3O13PS
